US07393844B2
A solution of methyl (1S,3R)-1-isopropyl-3-[methyl(tetrahydro-2H-pyran-4-yl)amino]cyclopentanecarboxylate (1.0 g, 3.5 mmol) in 1:1 THF/MeOH (20 mL) was treated with a solution of LiOH.H2O (735 mg) in 10 mL of water. After several hours very little hydrolysis was observed by HPLC-MS analysis so the reaction mixture was warmed to reflux and stirred for 2 days. The pH of the reaction mixture was then adjusted to 7 and the mixture was concentrated. The residue was suspended in 50% methanol/DCM, filtered, and the filtrate was concentrated to afford 900 mg of (1S,3R)-1-isopropyl-3-[methyl(tetrahydro-2H-pyran-4-yl)amino]cyclopentanecarboxylic acid which required no further purification.

reactant | methyl (1S,3R)-1-isopropyl-3-[methyl(tetrahydro-2H-pyran-4-yl)amino]cyclopentanecarboxylate | 3.5 mmol, 1.0 g | C(C)(C)[C@]1(C[C@@H](CC1)N(C1CCOCC1)C)C(=O)OC | C16H29NO3
reactant | THF MeOH | 20 mL | C1CCOC1.CO
reactant | LiOH.H2O | 735 mg | O[Li].O
solvent | water | 10 mL | O | H2O
product | (1S,3R)-1-isopropyl-3-[methyl(tetrahydro-2H-pyran-4-yl)amino]cyclopentanecarboxylic acid | 900 mg | C(C)(C)[C@]1(C[C@@H](CC1)N(C1CCOCC1)C)C(=O)O | C15H27NO3
